US06828460B2
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexylamine
Nickel chloride hexahydrate (77 mg) and sodium borohydride (24 mg) were added to a stirred solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone oxime (50 mg) in methanol (2 ml). After 0.5 hr, water was added until effervescence ceased, the reaction mixture was filtered, and the residue was washed thoroughly with methanol. The combined filtrate and washings were evaporated in vacuo and the crude residue was purified by flash column chromatography (SiO2, dichloromethane/methanol, 9:1 v/v) to furnish the title compound as a colourless oil (31 mg, 65%) and a mixture of diastereoisomers; m/z (ES+) 295 (M+H)+.

reactant | sodium borohydride | 24 mg | [BH4-].[Na+]
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone oxime | 50 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=NO | C16H23NO5
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
catalyst | Nickel chloride hexahydrate | 77 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexylamine | 31 mg, 65% | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)N | C16H25NO4
